US07968720B2
2-Chloro-3,6-difluoro-benzaldehyde Oxime
2-Chloro-3,6-difluoro-benzaldehyde (25.0 g, 142 mmol) was dissolved in CH3CN (175 mL). To this sol. was added NaHCO3 (35.7 g, 424 mmol), and the mixture was stirred vigorously for 5 min. Water (350 mL) was added, and the mixture was stirred for 10 min. NH2OH.HCl (19.7 g, 283 mmol) and TBAC (1.97 g, 7.08 mmol) were added, and the reaction mixture was stirred at rt for 1 h. AcOH (20 mL) was added dropwise to pH 6-7. The mixture was extracted with Et2O (3×). The combined org. extracts were washed with brine, dried over Na2SO4, filtered, and the solvents were removed under reduced pressure. Drying under high vacuum yielded the title compound (25.0 g, 92%). LC-MS: tR=0.93 min.

reactant | 2-Chloro-3,6-difluoro-benzaldehyde | 142 mmol, 25.0 g | ClC1=C(C=O)C(=CC=C1F)F | C7H3ClF2O
reactant | NaHCO3 | 424 mmol, 35.7 g | C(=O)(O)[O-].[Na+]
reactant | Water | 350 mL | O | H2O
reactant | NH2OH.HCl | 283 mmol, 19.7 g | NO.Cl
solvent | CH3CN | 175 mL | CC#N | C2H3N
catalyst | TBAC | 7.08 mmol, 1.97 g | CCCC[N+](CCCC)(CCCC)CCCC.[Cl-]
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 2-Chloro-3,6-difluoro-benzaldehyde Oxime | 25.0 g, 92% | ClC1=C(C=NO)C(=CC=C1F)F | C7H4ClF2NO
